US06022888
0.11 ml of n-hexylamine were added to a dichloromethane solution containing 246 mg of (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(phenoxycarbonyloxy)cyclopenta[c]pyrane-4-carboxylic acid methylester described in Example 10 followed by stirring for 1 hour at room temperature. The reaction mixture was then extracted with dichloromethane. After washing the organic phase with brine, it was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel chromatography to obtain a colorless powder from the hexane-ethyl acetate eluate in the form of (1S,4aS,6S,7R,7aR)-6,7-epoxy-1-(n-hexylcarbamoyloxy)-1,4a,5,6,7,7a-hexahydro-7-methylcyclopenta[c]pyrane-4-carboxylic acid methylester (87 mg, yield: 35%). The physicochemical properties of this compound are described in Table 7, Compound No. 33.

reactant | n-hexylamine | 0.11 ml | C(CCCCC)N | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(phenoxycarbonyloxy)cyclopenta[c]pyrane-4-carboxylic acid methylester | 246 mg | COC(=O)C=1[C@@H]2[C@@H]([C@@H](OC1)OC(=O)OC1=CC=CC=C1)[C@@]1([C@H](C2)O1)C | C18H18O7
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (1S,4aS,6S,7R,7aR)-6,7-epoxy-1-(n-hexylcarbamoyloxy)-1,4a,5,6,7,7a-hexahydro-7-methylcyclopenta[c]pyrane-4-carboxylic acid methylester | 87 mg, yield: 35% | COC(=O)C=1[C@@H]2[C@@H]([C@@H](OC1)OC(NCCCCCC)=O)[C@@]1([C@H](C2)O1)C | C18H27NO6
